US07741341B2
(i) 2-(2-Methoxy-ethoxy)-6-nitro-phenylamine
A solution of 5 g 2-Amino-3-nitro-phenol, 4.5 g 1-Bromo-2-methoxy-ethane, 4.4 g K2CO3 in 50 mL DMF were heated to 60° C. for 16 h. Then 50 mL of water were added and the mixture was extracted with ethyl acetate (3×100 ml). The combined organic layers were dried over MgSO4, and the solvents were removed under reduced pressure. The remaining product was pure enough for the next reaction step. Yield: 5.8 g.

reactant | 2-Amino-3-nitro-phenol | 5 g | NC1=C(C=CC=C1[N+](=O)[O-])O | C6H6N2O3
reactant | 1-Bromo-2-methoxy-ethane | 4.5 g | BrCCOC | C3H7BrO
reactant | K2CO3 | 4.4 g | C(=O)([O-])[O-].[K+].[K+]
reactant | water | 50 mL | O | H2O
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
product | 2-(2-Methoxy-ethoxy)-6-nitro-phenylamine | COCCOC1=C(C(=CC=C1)[N+](=O)[O-])N | C9H12N2O4
